US08071592B2
(e) [6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]acetaldehyde
Trifluoroacetic acid (3 mL) was added to 4-[2,2-bis(methyloxy)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one (0.9 g, 3.4 mmol) in water (3 mL) at room temperature and stirred for 2 h. The reaction mixture was concentrated and the residue was purified by column chromatography (silica gel) using a 0-10% MeOH/DCM/1% NH4OH gradient to give the product as a mixture of aldehyde and hemiacetal (0.6 g, 80%).

reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[2,2-bis(methyloxy)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 3.4 mmol, 0.9 g | COC(CN1C2=C(N=CC1=O)C=CC(=N2)OC)OC | C12H15N3O4
solvent | water | 3 mL | O | H2O
product | [6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]acetaldehyde | COC=1C=CC2=C(N(C(C=N2)=O)CC=O)N1 | C10H9N3O3
